US08044062B2
Potassium carbonate (0.539 g, 3.90 mmol) was added to a suspension of 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carbaldehyde (0.413 g, 1.95 mmol) from above, and malononitrile (0.194 g, 2.93 mmol) in absolute ethanol (15.0 mL) and heated to 70° C. After one h, the reaction was allowed to cool to room temperature and concentrated in vacuo. The residue was diluted with ethyl acetate (50 mL) and washed with saturated NaHCO3 (50 mL), and brine. The organic phase was separated and concentrated in vacuo. The residue was precipitated with ethyl acetate and hexanes to give 8-ethyl-7-imino-4-methyl-2-(methylthio)-7,8-dihydropyrido[2,3-d]pyrimidine-6-carbonitrile as a brown solid that was used in the subsequent step without further purification.

reactant | Potassium carbonate | 3.90 mmol, 0.539 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(ethylamino)-6-methyl-2-(methylthio)pyrimidine-5-carbaldehyde | 1.95 mmol, 0.413 g | C(C)NC1=NC(=NC(=C1C=O)C)SC | C9H13N3OS
reactant | malononitrile | 2.93 mmol, 0.194 g | C(CC#N)#N | C3H2N2
solvent | ethanol | 15.0 mL | C(C)O | C2H6O
product | 8-ethyl-7-imino-4-methyl-2-(methylthio)-7,8-dihydropyrido[2,3-d]pyrimidine-6-carbonitrile | C(C)N1C(C(=CC2=C1N=C(N=C2C)SC)C#N)=N | C12H13N5S
